US04999356
To a stirred mixture of 1.5g of cyanogen bromide 2.0 g of potassium carbonate and 30 ml of dimethylsulfoxide was added, dropwise, a solution of 2.8 g of 1-phenyl-3-(4-methyl-1-piperazinyl)-1H-indazole in 30 ml of dimethylsulfoxide. The reaction mixture was stirred at ambient temperature for 1.5 hours and then poured into water. The aqueous mixture was extracted with ethyl acetate, and the extract was washed with water, dried over anhydrous magnesium sulfate, and concentrated. The concentrate was purified by flash chromatography on silica gel, utilizing ethyl acetate-hexane (1:1) as the eluent, followed by recrystallization from isopropyl alcohol-water to yield 2.3 g (59%) of 4-(1-phenyl-1H-indazol-3-yl)-1-piperazine carbonitrile, m.p. 118°-120°.

reactant | cyanogen bromide | 1.5g | N#CBr | CBrN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-phenyl-3-(4-methyl-1-piperazinyl)-1H-indazole | 2.8 g | C1(=CC=CC=C1)N1N=C(C2=CC=CC=C12)N1CCN(CC1)C | C18H20N4
reactant | water | O | H2O
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 4-(1-phenyl-1H-indazol-3-yl)-1-piperazine carbonitrile | 2.3 g, 59% | C1(=CC=CC=C1)N1N=C(C2=CC=CC=C12)N1CCN(CC1)C#N | C18H17N5
